US05550149
1-[[(4-Methylphenyl)thio]methyl]-4-(trifluoromethoxy)benzene
The procedure of Example 87 is repeated using 11.8 g of p-thiocresol and 9.6 g of 4-(trifluoromethoxy)benzyl chloride. This affords 10.9 g of the desired product as white crystals.

reactant | p-thiocresol | 11.8 g | CC1=CC=C(C=C1)S | C7H8S
reactant | 4-(trifluoromethoxy)benzyl chloride | 9.6 g | FC(OC1=CC=C(CCl)C=C1)(F)F | C8H6ClF3O
product | 1-[[(4-Methylphenyl)thio]methyl]-4-(trifluoromethoxy)benzene | 10.9 g | CC1=CC=C(C=C1)SCC1=CC=C(C=C1)OC(F)(F)F | C15H13F3OS
